US08232283B2
2-(2-Chloro-5-nitrophenyl)acetic acid (49.9 mmol) and CDI (59.9 mmol) were dissolved in DMF (300 mL) to give a yellow solution. O-Methylhydroxylamine hydrochloride (59.9 mmol) was added. The mixture was stirred at room temperature for 4 h. The reaction mixture was then concentrated under reduced pressure to approximately 50 mL and diluted with 300 mL of ethyl acetate. The organic layer was washed twice with 250 mL of water. The aqueous layer was then saturated with brine and back-extracted with ethyl acetate. The organic layers were combined and subsequently washed with 300 mL of 1 M aq. HCl, 300 mL of sat. aq. NaHCO3, and 300 mL of brine. The organic layer was separated, dried over anhydrous sodium sulfate, filtered and concentrated under vacuum to give 2-(2-chloro-5-nitrophenyl)-N-methoxyacetamide as a solid (69%).

reactant | 2-(2-Chloro-5-nitrophenyl)acetic acid | 49.9 mmol | ClC1=C(C=C(C=C1)[N+](=O)[O-])CC(=O)O | C8H6ClNO4
reactant | CDI | 59.9 mmol | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | O-Methylhydroxylamine hydrochloride | 59.9 mmol | Cl.CON
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 2-(2-chloro-5-nitrophenyl)-N-methoxyacetamide | 69% | ClC1=C(C=C(C=C1)[N+](=O)[O-])CC(=O)NOC | C9H9ClN2O4
